US07897601B2
To a solution of 3-(4-chloro-phenyl)-prop-2-ynylamine (2.5 g) in 50 mL of THF at room temperature was added a 1M solution of LiAlH4 in THF (30 mL) and the mixture was heated at reflux for 1 hr. It was cooled to room temperature, and to it was successively added 1.1 mL H2O, 1.1 mL of 15% aq. NaOH and 3.4 mL H2O. The precipitated solid was filtered off and the filtrate was concentrated and purified by chromatography to provide 1.45 g of 3-(4-chloro-phenyl)-allylamine. NMR (400 MHz, CDCl3) 7.26-7.21 (m, 4H), 6.42 (dt, J=16.0, 1.6 Hz, 1H), 6.29-6.22 (m, 1H), 3.44 (dd, J=5.6, 1.6 Hz, 2H)

reactant | 3-(4-chloro-phenyl)-prop-2-ynylamine | 2.5 g | ClC1=CC=C(C=C1)C#CCN | C9H8ClN
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1.1 mL | O | H2O
reactant | NaOH | 1.1 mL | [OH-].[Na+]
reactant | H2O | 3.4 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(4-chloro-phenyl)-allylamine | 1.45 g | ClC1=CC=C(C=C1)C=CCN | C9H10ClN
